US07329659B2
To a solution of ethyl 5-bromo-3-methylpyridine-2-carboxylate (1.6 g; 6.95 mmol) and benzoyl peroxide (84.23 mg; 0.347 mmol) in carbon tetrachloride (20 mL) was added N-bromosuccinimide (2.47 g; 13.91 mmol). The reaction mixture was heated at reflux for 3 h. Another equivalent of N-bromosuccinimide and benzoyl peroxide (85 mg) was added and refluxing was continued for a further 7 h. Reaction was monitored by MS. After 10 h the product was the major peak. The reaction mixture was allowed to cool, filtered through celite washed with carbon tetrachloride. The filtrate was evaporated under reduced pressure to give an oil, 2.7 g. The oil (2.7 g; 6.9615 mmol) and hydrazine hydrate (2.4 mL) in ethanol was heated at reflux overnight. The solvent was evaporated under reduced pressure, the residue was taken-up in water acidified with 2N HCl the solid obtained was collected by filtration washed with water and dried by azeotroping with toluene. Yield=0.9 g. The crude product and phosphorus oxychloride were heated at 60° C. for 1 h. The excess phosphorus oxychloride was evaporated under reduced pressure to give 3-bromo-8-chloropyrido[2,3-d]pyridazine (0.97 g) as solid. This material was azeotroped with toluene and then treated with 4-aminobenzotrifluoride (0.64 g, 0.495 mL; 3.97 mmol) in 1,4-dioxane (20ml) and heated at 40° C. for 1 h. The solvent was evaporated under reduced pressure and the residue partitioned between ethyl acetate and sodium carbonate solution. The ethyl acetate extracts were combined, washed with brine, dried over magnesium sulphate, filtered and evaporated under reduced pressure to give an oil. The oil was purified by flash chromatography using a gradient of (90->50%) iso-hexane/ethyl acetate. The appropriate fractions were combined and evaporated under reduced pressure to give 3-bromo-N-(4-(trifluoromethyl)phenyl)pyrido[2,3-d]pyridazin-8-amine (100 mg). 1H NMR (500 MHz, DMSO-d6) δ: 7.73 (2H, d, J 8.6 Hz), 8.41 (2H, d, J 8.8 Hz), 8.91 (1H, d, J 2.2 Hz), 9.25 (1H, s), 9.33 (1H, d, J 2.2 Hz), 10.05 (1H, s).

reactant | ethyl 5-bromo-3-methylpyridine-2-carboxylate | 6.95 mmol, 1.6 g | BrC=1C=C(C(=NC1)C(=O)OCC)C | C9H10BrNO2
reactant | N-bromosuccinimide | 13.91 mmol, 2.47 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hydrazine hydrate | 2.4 mL | O.NN
reactant | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | C(C)O | C2H6O
catalyst | benzoyl peroxide | 0.347 mmol, 84.23 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | benzoyl peroxide | 85 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-bromo-8-chloropyrido[2,3-d]pyridazine | 0.97 g | BrC1=CC=2C(=C(N=NC2)Cl)N=C1 | C7H3BrClN3
